US06420359B1
c) 2-Chloro-N-{2-(ethylamino)-3-pyridinyl}-5-bromo-3-pyridinecarboxamide
To a cooled solution of 3-amino-2-(ethylamino)pyridine (30.6 g, 223 mmol) in MeCN (740 mL) was added solid NaHCO3 (56.3 g, 669 mmol). After 5 min, crude 5-bromo-2-chloro-3-pyridinecarbonyl chloride (prepared from 5-bromo-2-hydroxy-3-pyridinecarboxylic acid and SOCl2 [as described by T. W. Gero et al. in Synth. Commun. 1989, 19, 553-559 (incorporated herein by reference) but with omission of the aqueous work-up] was added (1 equiv., 223 mmol). After 2 h, the reaction mixture was poured over ice/H2O (1.5 L) and the resulting solid was filtered, rinsed with H2O and then hexane. After drying under reduced pressure overnight, the title compound was obtained as a black solid (54.9 g, 69% yield).

reactant | 3-amino-2-(ethylamino)pyridine | 223 mmol, 30.6 g | NC=1C(=NC=CC1)NCC | C7H11N3
reactant | NaHCO3 | 669 mmol, 56.3 g | C(=O)(O)[O-].[Na+]
reactant | 5-bromo-2-chloro-3-pyridinecarbonyl chloride | BrC=1C=C(C(=NC1)Cl)C(=O)Cl | C6H2BrCl2NO
reactant | 5-bromo-2-hydroxy-3-pyridinecarboxylic acid | BrC=1C=C(C(=NC1)O)C(=O)O | C6H4BrNO3
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
solvent | MeCN | 740 mL | CC#N | C2H3N
product | 2-Chloro-N-{2-(ethylamino)-3-pyridinyl}-5-bromo-3-pyridinecarboxamide | ClC1=NC=C(C=C1C(=O)NC=1C(=NC=CC1)NCC)Br | C13H12BrClN4O
